US07592337B2
Following the procedure described in EXAMPLE 1 for the synthesis of 1-methyl-3-[3-(5-pyridin-2-yl-2H-tetrazol- 2-yl)phenyl]imidazolidin-2-one, but using 4-bromoaniline (17.2 g, 100 mmol) and pyridine-2-carboxaldehyde (10.7 g, 100 mmol), 2-[2-(4-bromophenyl)-2H-tetrazol-5-yl]pyridine was obtained as an orange solid. 1H-NMR (CDCl3, 300 MHz) δ 8.83 (d, 1H), 8.33 (d, 1H), 8.15 (d, 2H), 7.96-7.87 (m, 1H), 7.70 (d, 2H), 7.44 (dd, 1H).

reactant | 1-methyl-3-[3-(5-pyridin-2-yl-2H-tetrazol- 2-yl)phenyl]imidazolidin-2-one | CN1C(N(CC1)C1=CC(=CC=C1)N1N=C(N=N1)C1=NC=CC=C1)=O | C16H15N7O
reactant | 4-bromoaniline | 100 mmol, 17.2 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | pyridine-2-carboxaldehyde | 100 mmol, 10.7 g | N1=C(C=CC=C1)C=O | C6H5NO
product | 2-[2-(4-bromophenyl)-2H-tetrazol-5-yl]pyridine | BrC1=CC=C(C=C1)N1N=C(N=N1)C1=NC=CC=C1 | C12H8BrN5
